US03953501
N-(3-CARBOXY-5-NITROBENZOYL)-GLYCINE METHYLAMIDE (IIa)
443.0 g. (1.5 moles) of N-(3-metoxycarbonyl-5-nitrobenzoyl-glycine methylamide in 5.5 l. of dioxane is agitated for 2 hours at room temperature with the addition of 3.3 l. of 0.5N sodium hydroxide solution. Thereafter, 400 ml. of water is added to the reaction mixture, the dioxane is distilled off under vacuum, and the acid is precipitated with concentrated hydrochloric acid, vacuum-filtered, washed free of salt with water, and dried under vacuum at 70° C. Yield: 408 g. M.P. 256- 257°C.

reactant | 3-metoxycarbonyl-5-nitrobenzoyl-glycine methylamide | CNC(CNC(C1=CC(=CC(=C1)[N+](=O)[O-])C(=O)OC)=O)=O | C12H13N3O6
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 0.5N | [OH-].[Na+]
solvent | water | O | H2O
product | N-(3-CARBOXY-5-NITROBENZOYL)-GLYCINE METHYLAMIDE | CNC(CNC(C1=CC(=CC(=C1)[N+](=O)[O-])C(=O)O)=O)=O | C11H11N3O6
